US09210927B2
Step 2. tert-Butyl 2-chloro-4-vinylbenzoate (AI17)
To a stirred solution of tert-butyl 4-bromo-2-chlorobenzoate (1.6 g, 5.50 mmol) in toluene (20 mL) was added tetrakis(triphenylphospine)palladium(0) (Pd(PPh3)4; (0.31 mg, 0.27 mmol), K2CO3 (2.27 g, 16.5 mmol) and vinylboronic anhydride pyridine complex (2.0 g, 8.3 mmol) and the reaction mixture was heated to reflux for 16 h. The reaction mixture was filtered, and the filtrate was washed with H2O and brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; eluting with 5-6% EtOAc in n-hexane) afforded the title compound as a liquid (0.6 g, 46%): 1H NMR (400 MHz, CDCl3) δ 7.72 (d, J=8.1 Hz, 1H), 7.44 (m, 1H), 7.31 (d, J=8.0 Hz, 1H), 6.69 (dd, J=17.6, 10.8 Hz, 1H), 5.85 (d, J=17.6 Hz, 1H), 5.40 (d, J=10.8 Hz, 1H), 1.60 (s, 9H); ESIMS m/z 238.95 ([M+H]+); IR (thin film) 2931, 1725, 1134 cm−1.

reactant | tert-butyl 4-bromo-2-chlorobenzoate | 5.50 mmol, 1.6 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)Cl | C11H12BrClO2
reactant | K2CO3 | 16.5 mmol, 2.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 2-chloro-4-vinylbenzoate | 0.6 g, 46% | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C=C | C13H15ClO2
